US05106845
A flask containing a mixture of 2,2-diphenylethylamine (5.92 g; 3.00×10-2 mole) and 2-methylthio-1,4,5,6-tetrahydropyrimidine hydroiodide (7.74 g, 3.00×10-2 mole) was immersed in an oil bath which had been preheated to ca. 155° C. The reaction was stirred at between 150°-168° C. for 1.5 hours. The resulting yellow glass was dissolved in methanol. The methanol was evaporated and the resulting yellow oil was dissolved in dichloromethane. This solution was transferred to a separatory funnel where it was washed with 2N aqueous NaOH and saturated aqueous NaCl. After drying over anhydrous Na2SO4, the dichloromethane was evaporated giving a foam which was dissolved in methanol (125 ml). This solution was cooled to 0° C. at which time it was treated with a methanolic solution of HCl. After 10-15 minutes most of the methanol was evaporated and 2-butanone was added. After several days the crystals were collected by filtration. Recrystallization from isopropanol afforded 2-(2,2-diphenylethylamino)-1,4,5,6-tetrahydropyrimidine hydrochloride as off-white crystals: 3.80 g (40%), m.p. 180°-182° C.

reactant | 2,2-diphenylethylamine | 3.00×10-2 mole, 5.92 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | 2-methylthio-1,4,5,6-tetrahydropyrimidine hydroiodide | 3.00×10-2 mole, 7.74 g | I.CSC=1NCCCN1
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 125 ml | CO | CH4O
product | 2-(2,2-diphenylethylamino)-1,4,5,6-tetrahydropyrimidine hydrochloride | Cl.C1(=CC=CC=C1)C(CNC=1NCCCN1)C1=CC=CC=C1 | InChI=1S/C18H21N3.ClH/c1-3-8-15(9-4-1)17(16-10-5-2-6-11-16)14-21-18-19-12-7-13-20-18;/h1-6,8-11,17H,7,12-14H2,(H2,19,20,21);1H
